US06372770B1
2-(3-Cyclopentyloxy-4-methoxybenzyl)-7-(3-pyridylmethylamino)Benzoxazole
To a stirred suspension of 2-(3-cyclopentyloxy-4-methoxybenzyl)-7-aminobenzoxazole (0.98 g, 0.0029 mol) in 15 ml of methanol, 2.5 ml of 1 N HCl in methanol, was added. Pyridine-3-carboxaldehyde (0.37 g, 3.5 mmol) was added to this suspension followed by sodium cyanoborohydride (0.29 g, 0.0046 mol) and the pH was adjusted to 6 using 1 N HCl in methanol. After 3 hours, 1 N sodium hydroxide was added to bring the pH to 10 and the reaction mixture was extracted with CH2Cl2. The CH2Cl2 layer was separated and the aqueous layer was extracted with 2×50 ml of CH2Cl2. The combined CH2Cl2 layers were washed with water, dried and evaporated to give 1.09 g of yellow oil which crystallized on trituration with ether. After filtration, 0.5 g of white crystalline title compound was separated and the filtrate was concentrated. Flash chromatography of the filtrate on silica gel gave 0.2 g of recovered starting material on elution with CH2Cl2, followed by a further 0.32 g of crystalline title compound when the eluting solvent was 1% methanol in CH2Cl2. This material could be recrystallized from an ether-hexane blend to give the title compound as off-white crystals, mp 90-92° C.

reactant | 2-(3-cyclopentyloxy-4-methoxybenzyl)-7-aminobenzoxazole | 0.0029 mol, 0.98 g | C1(CCCC1)OC=1C=C(CC=2OC3=C(N2)C=CC=C3N)C=CC1OC | C20H22N2O3
reactant | Pyridine-3-carboxaldehyde | 3.5 mmol, 0.37 g | N1=CC(=CC=C1)C=O | C6H5NO
reactant | sodium cyanoborohydride | 0.0046 mol, 0.29 g | C(#N)[BH3-].[Na+]
reactant | sodium hydroxide | 1 N | [OH-].[Na+]
solvent | methanol | 15 ml | CO | CH4O
solvent | HCl | 1 N, 2.5 ml | Cl | ClH
solvent | HCl | 1 N | Cl | ClH
product | 2-(3-Cyclopentyloxy-4-methoxybenzyl)-7-(3-pyridylmethylamino)Benzoxazole | 1.09 g | C1(CCCC1)OC=1C=C(CC=2OC3=C(N2)C=CC=C3NCC=3C=NC=CC3)C=CC1OC | C26H27N3O3
